US07429583B2
d) 5-methoxy-3-methyl-1-(3-methyl-3-nitro-butyl)-1,3-dihydro-benzimidazol-2-one
1.1 g (28 mmol) 60% sodium hydride are added to 2.5 g (14 mmol) 5-methoxy-1-methyl-1,3-dihydro-benzimidazol-2-one in 30 mL DMF while being cooled with the ice bath. After 30 minutes a solution of 1-iodo-4-methyl-4-nitro-pentane in 20 mL DMF is piped in and the mixture is stirred overnight. It is diluted with water and extracted with ethyl acetate. The combined organic phases are washed with water, dried and evaporated down. The solid remaining is stirred with diethyl ether.

reactant | sodium hydride | 28 mmol, 1.1 g | [H-].[Na+]
reactant | 5-methoxy-1-methyl-1,3-dihydro-benzimidazol-2-one | 14 mmol, 2.5 g | COC1=CC2=C(N(C(N2)=O)C)C=C1 | C9H10N2O2
reactant | 1-iodo-4-methyl-4-nitro-pentane | ICCCC(C)([N+](=O)[O-])C | C6H12INO2
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-methoxy-3-methyl-1-(3-methyl-3-nitro-butyl)-1,3-dihydro-benzimidazol-2-one | COC1=CC2=C(N(C(N2C)=O)CCC(C)([N+](=O)[O-])C)C=C1 | C14H19N3O4
